US07253171B2
(S)-2-tert-Butoxycarbonylamino-3-(4-trifluoromethanesulfonyloxyphenyl) propionic acid methyl ester (1.88 g, 4.39 mmol, prepared as described in Preparation 23, was dissolved in glyme (58 ml) and water (4 ml). To this solution 2-methoxyphenylboronic acid (2.0 g, 13.16 mmol), tetrakistriphenylphosphine palladium (0) (2.79 g, 2.41 mmol) and potassium carbonate (2.12 g, 15.37 mmol) were added. The reaction mixture was degassed and then heated at 80° C. for 6 h. The mixture was diluted with EtOAc (100 ml), washed with saturated aqueous NaHCO3 (100 ml) and brine (100 ml) and dried over MgSO4. The mixture was filtered and concentrated in vacuo. The residue was purified by flash chromatography over silica gel (9:1 to 4:1 hexanes/EtOAc) to give (S)-2-tert-butoxycarbonylamino-3-(2′-methoxy-biphenyl-4-yl)-propionic acid methyl ester (1.1 g, 65%) as a white solid.

reactant | (S)-2-tert-Butoxycarbonylamino-3-(4-trifluoromethanesulfonyloxyphenyl) propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)NC(=O)OC(C)(C)C)=O | C16H20F3NO7S
reactant | 2-methoxyphenylboronic acid | 13.16 mmol, 2.0 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 15.37 mmol, 2.12 g | C([O-])([O-])=O.[K+].[K+]
solvent | glyme | 58 ml | C(OC)COC | C4H10O2
solvent | water | 4 ml | O | H2O
product | (S)-2-tert-butoxycarbonylamino-3-(2′-methoxy-biphenyl-4-yl)-propionic acid methyl ester | 1.1 g, 65% | COC([C@H](CC1=CC=C(C=C1)C1=C(C=CC=C1)OC)NC(=O)OC(C)(C)C)=O | C22H27NO5
